US08211919B2
To a solution of 1-acetyl-5-bromoindoline (12.01 g) and 4-pyridinylboronic acid (9.22 g) in 1,2-dimethoxyethane (500 mL) were added [1,1′-bis-(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1.23 g) and potassium phosphate (31.9 g) at ambient temperature and the mixture was stirred at 100° C. for 20 hours. The mixture was evaporated in vacuo to remove 1,2-dimethoxyethane and the residue was dissolved in a mixture of ethyl acetate (600 mL) and water (300 mL). The separated organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with ethyl acetate to give 1-acetyl-5-(4-pyridinyl)indoline (4.42 g) as a white powder.

reactant | 1-acetyl-5-bromoindoline | 12.01 g | C(C)(=O)N1CCC2=CC(=CC=C12)Br | C10H10BrNO
reactant | 4-pyridinylboronic acid | 9.22 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | dichloromethane | 1.23 g | ClCCl | CH2Cl2
reactant | potassium phosphate | 31.9 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,2-dimethoxyethane | 500 mL | COCCOC | C4H10O2
catalyst | [1,1′-bis-(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-acetyl-5-(4-pyridinyl)indoline | 4.42 g | C(C)(=O)N1CCC2=CC(=CC=C12)C1=CC=NC=C1 | C15H14N2O
